US07888364B2
75 mL of (4-methylpyridin-2-yl)zinc(II) bromide was reacted with 4 g of 1-chloro-2-iodo-4-nitrobenzene via Procedure B. To 300 mg of 2-(2-chloro-5-nitrophenyl)-4-methylpyridine in 1.5 mL of Sulfuric Acid was slowly added 362 mg of Chromium (III) Oxide and the reaction was stirred for several hours at room temperature until complete. Icewater was added to dilute the reaction and the aqueous layer was extracted 3 times with Ethyl Acetate. The organic layers were combined, dried over Magnesium Sulfate, filtered and concentrated to give 2-(2-chloro-5-nitrophenyl)isonicotinic acid. 300 mg of 2-(2-chloro-5-nitrophenyl)isonicotinic acid was esterified with 750 μL of 4N HCl in Dioxane in 10 mL of MeOH at 55° C. for 16 hours. The reaction was concentrated and subjected to basic workup, dried over Magnesium Sulfate, filtered and concentrated to give methyl 2-(2-chloro-5-nitrophenyl)isonicotinate. 259 mg of methyl 2-(2-chloro-5-nitrophenyl)isonicotinate was treated with 200 mg of Tin (II) Chloride and 500 mL of HCl in 10 mL of EtOH. Upon completion, EtOH was concentrated and the reaction was extracted with Ethyl Acetate and water with TEA to decrease emulsions. The organic layer was dried over Magnesium Sulfate, filtered and concentrated to give crude methyl 2-(5-amino-2-chlorophenyl)isonicotinate. 240 mg of methyl methyl 2-(5-amino-2-chlorophenyl)isonicotinate was treated with 204 μL of 2-methyl-6-(trifluoromethyl)nicotinoyl chloride via Procedure D. To 100 mg of methyl 2-(2-chloro-5-(2-methyl-6-(trifluoromethyl)nicotinamido)phenyl)isonicotinate at 0° C. in 5 mL of EtOH was slowly added 135 mg of Sodium Borohydride. The reaction was subsquently refluxed for 1 hour until complete, quenched with water and extracted with Ethyl Acetate. The organic layer was dried over Magnesium Sulfate, filtered, concentrated and purified by reverse phase HPLC to give pure N-(4-chloro-3-(4-(hydroxymethyl)pyridin-2-yl)phenyl)-2-methyl-6-(trifluoromethyl)nicotinamide. MS (Q1) 422.1 (M)+.

reactant | methyl 2-(2-chloro-5-nitrophenyl)isonicotinate | 259 mg | ClC1=C(C=C(C=C1)[N+](=O)[O-])C=1C=C(C(=O)OC)C=CN1 | C13H9ClN2O4
reactant | Tin (II) Chloride | 200 mg | [Sn](Cl)Cl
reactant | HCl | 500 mL | Cl | ClH
solvent | EtOH | 10 mL | CCO | C2H6O
product | methyl 2-(5-amino-2-chlorophenyl)isonicotinate | NC=1C=CC(=C(C1)C=1C=C(C(=O)OC)C=CN1)Cl | C13H11ClN2O2
